US09120773B2
In a stream of argon, 0.98 g (3.21 mmol) of 9-(4,4,5,5-tetramethyl-1,3,2-dioxabororan-2-yl)anthracene, 1.50 g (3.21 mmol) of 2-(3,5-dibromophenyl)-4,6-diphenyl-1,3,5-triazine and 37.1 mg (0.032 mmol) of tetrakis(triphenylphosphine)palladium were suspended in a mixed solvent composed of 100 mL of toluene and 20 mL of ethanol, and the resultant suspension was heated to 60° C. To the suspension, 9.63 mL (9.63 mmol) of an aqueous 1M K2CO3 solution was gradually added dropwise, and the mixture was stirred for 3 hours. Then the mixture was cooled to room temperature, and 0.96 g (4.82 mmol) of 4-(2-pyridyl)phenylboronic acid and 6.42 mL (6.42 mmol) of an aqueous 1M K2CO3 solution were added. Then the mixture was heated to 60° C. and maintained at that temperature for 17 hours while being stirred. Then the reaction mixture was cooled to room temperature, and was then distilled under a reduced pressure to remove all volatile materials. Methanol was added to the concentrate, and the thus-deposited solid was collected by filtration. The obtained crude product was purified by silica gel chromatography using a hexane/chloroform (1:2) mixed solvent as an eluent to give 0.68 g of the target 2-[5-(9-anthryl)-4′-(2-pyridyl)biphenyl-3-yl]-4,6-diphenyl-1,3,5-triazine as a white solid (yield: 330).

reactant | 2-(3,5-dibromophenyl)-4,6-diphenyl-1,3,5-triazine | 3.21 mmol, 1.50 g | BrC=1C=C(C=C(C1)Br)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H13Br2N3
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | K2CO3 | 1M | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(2-pyridyl)phenylboronic acid | 4.82 mmol, 0.96 g | N1=C(C=CC=C1)C1=CC=C(C=C1)B(O)O | C11H10BNO2
reactant | K2CO3 | 1M | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.032 mmol, 37.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-[5-(9-anthryl)-4′-(2-pyridyl)biphenyl-3-yl]-4,6-diphenyl-1,3,5-triazine | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C=1C=C(C=C(C1)C1=CC=C(C=C1)C1=NC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C46H30N4
